US05276038
Preparation of 1(p-Chlorophenyl)-3-(3,4-dihydro-8-hydroxy-4-oxo-3-quinazolinyl)urea acetate (ester)
A mixture of 1-(p-chlorophenyl)-3-(3,4-dihydro-8-hydroxy-4-oxo-3-quinazolinyl)urea (0.66 g, 2.00 mmol) in dichloromethane is treated with acetyl chloride (0.155 mL, 2.11 mmol) and pyridine (0.165 mL, 2.04 mmol), stirred overnight, washed sequentially with 5% hydrochloric acid, saturated sodium hydrogen carbonate solution and brine, dried over anhydrous MgSO4 and concentrated in vacuo to obtain a solid. The solid is washed with dichloromethane and dried to give the title product as a white solid, 0.30 g, mp 216°-218° C., which is identified by 1HNMR spectral analysis.

reactant | 1-(p-chlorophenyl)-3-(3,4-dihydro-8-hydroxy-4-oxo-3-quinazolinyl)urea | 2.00 mmol, 0.66 g | ClC1=CC=C(C=C1)NC(=O)NN1C=NC2=C(C=CC=C2C1=O)O | C15H11ClN4O3
reactant | acetyl chloride | 2.11 mmol, 0.155 mL | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 2.04 mmol, 0.165 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1(p-Chlorophenyl)-3-(3,4-dihydro-8-hydroxy-4-oxo-3-quinazolinyl)urea acetate | C(C)(=O)O.ClC1=CC=C(C=C1)NC(=O)NN1C=NC2=C(C=CC=C2C1=O)O | InChI=1S/C15H11ClN4O3.C2H4O2/c16-9-4-6-10(7-5-9)18-15(23)19-20-8-17-13-11(14(20)22)2-1-3-12(13)21;1-2(3)4/h1-8,21H,(H2,18,19,23);1H3,(H,3,4)
